US08871766B2
C) 5-methyl-3-(pyridin-4-yl)-1H-pyrazole-4-carboxylic acid
To a solution of ethyl 5-methyl-3-(pyridin-4-yl)-1H-pyrazole-4-carboxylate (3.1 g) in ethanol (20 mL) were added sodium hydroxide (8.0 g) and water (10 mL), and the mixture was heated under reflux overnight. The solvent was evaporated under reduced pressure, the pH of the mixture was adjusted to 5 with 2 N hydrochloric acid, and mixture was concentrated under reduced pressure. The obtained solid was collected by filtration and washed with water to give the title compound (2.4 g).

reactant | ethyl 5-methyl-3-(pyridin-4-yl)-1H-pyrazole-4-carboxylate | 3.1 g | CC1=C(C(=NN1)C1=CC=NC=C1)C(=O)OCC | C12H13N3O2
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-methyl-3-(pyridin-4-yl)-1H-pyrazole-4-carboxylic acid | 2.4 g | CC1=C(C(=NN1)C1=CC=NC=C1)C(=O)O | C10H9N3O2
